spice
* NMOS Transistor M1 (Drain, Gate, Source)
M1 3 4 0 NMOS

* PMOS Transistor M2 (Drain, Gate, Source)
M2 3 2 2 PMOS

* Current Source I1
I1 3 0 DC 1mA

* Resistor RD
RD 3 0 1k

* Voltage Sources
Vin 4 0 DC 1V
Vb 4 0 DC 1V
VDD 2 0 DC 5V

* Model Definitions for MOSFETs
.model NMOS NMOS
.model PMOS PMOS

.end